US06455528B1
(6) N-((4-Hydroxymethyl-2,6-dimethylphenyl)methyl)acetamide
To a solution of 4-aminomethyl-3,5-dimethylbenzyl alcohol (2.3 g) in ethyl acetate (70 ml) was added a solution of potassium carbonate (2.0 g) in water (35 ml). To this solution was added acetyl chloride (0.95 ml) under ice-cooling. This mixture was stirred at room temperature for 1 hr. The reaction mixture was extracted with ethyl acetate, washed with saturated brine and dried over anhydrous magnesium sulfate. The solvent was evaporated and the obtained residue was recrystallized from methanol-ethyl acetate to give the title compound (2.0 g) as white crystals, m.p.=193.5-194.5° C.

reactant | 4-aminomethyl-3,5-dimethylbenzyl alcohol | 2.3 g | NCC1=C(C=C(CO)C=C1C)C | C10H15NO
reactant | potassium carbonate | 2.0 g | C([O-])([O-])=O.[K+].[K+]
reactant | acetyl chloride | 0.95 ml | C(C)(=O)Cl | C2H3ClO
solvent | ethyl acetate | 70 ml | C(C)(=O)OCC | C4H8O2
solvent | water | 35 ml | O | H2O
product | N-((4-Hydroxymethyl-2,6-dimethylphenyl)methyl)acetamide | 2.0 g | OCC1=CC(=C(C(=C1)C)CNC(C)=O)C | C12H17NO2
